US05075030
0.43 g (1.5 mmol) of the thus obtained (+)-2-fluoroheptyl p-toluenesulfonate and 0.28 g (1.0 mmol) of 5-octyl-2-(4-hydroxyphenyl)pyrimidine were mixed with 0.2 ml of 1-butanol, followed by sufficient stirring. To the solution was quickly added a previously obtained alkaline solution of 0.048 g (1.2 mmol) of sodium hydroxide in 1.0 ml of 1-butanol, followed by 5.5 hours of heat-refluxing. After the reaction, 10 ml of distilled water was added, and the mixture was extracted respectively once with 10 ml of benzene and 5 ml of benzene, followed by drying with an appropriate amount of anhydrous sodium sulfate, distilling-off of the solvent and purification by silica gel column chromatography (chloroform) to obtain 0.17 g (0.43 mmol) of objective (+)-5-octyl-2-[4-(2-fluoroheptyloxy)phenyl]pyrimidine.

reactant | (+)-2-fluoroheptyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCC(CCCCC)F)C | C14H21FO3S
reactant | 5-octyl-2-(4-hydroxyphenyl)pyrimidine | 1.0 mmol, 0.28 g | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O
reactant | sodium hydroxide | 1.2 mmol, 0.048 g | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | 1-butanol | 1.0 ml | C(CCC)O | C4H10O
solvent | 1-butanol | 0.2 ml | C(CCC)O | C4H10O
product | (+)-5-octyl-2-[4-(2-fluoroheptyloxy)phenyl]pyrimidine | 0.43 mmol, 0.17 g | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCC(CCCCC)F | C25H37FN2O
